.title kicad schematic

.include NPN.lib
.include PNP.lib
* u1 net-_q2-pad3_ net-_q1-pad3_ net-_c1-pad2_ port
q8 net-_q1-pad3_ net-_q1-pad1_ net-_q2-pad3_ Q2N2907A
q6 net-_q1-pad3_ net-_q1-pad1_ net-_q2-pad3_ Q2N2907A
q1 net-_q1-pad1_ net-_c1-pad1_ net-_q1-pad3_ Q2N2222
q3 net-_q3-pad1_ net-_q1-pad1_ net-_q2-pad3_ Q2N2907A
q2 net-_c1-pad1_ net-_q1-pad1_ net-_q2-pad3_ Q2N2907A
c1 net-_c1-pad1_ net-_c1-pad2_ 50p
q4 net-_c1-pad1_ net-_q3-pad1_ net-_c1-pad2_ Q2N2222
q7 net-_q3-pad1_ net-_q3-pad1_ net-_q1-pad3_ Q2N2222
q5 net-_q3-pad1_ net-_q3-pad1_ net-_q1-pad3_ Q2N2222
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
