.title kicad schematic

.include LM335.sub
* u1 vout plot_v1
x1 vout net-_r2-pad2_ gnd LM335
r2 gnd net-_r2-pad2_ 10k
vv1 net-_r1-pad1_ gnd sin(0 1 1k)
r1 net-_r1-pad1_ vout 2.2k
.tran 10e-06 4e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout)
.endc
.end
