.title kicad schematic

.include PNP.lib
.include D.lib
.include NPN.lib
q29 net-_i1-pad2_ net-_i5-pad1_ net-_q28-pad2_ Q2N2907A
* u1 net-_r1-pad1_ net-_d1-pad2_ net-_d1-pad1_ net-_i1-pad2_ unconnected-_u1-pad5_ net-_q27-pad3_ net-_c1-pad1_ net-_r3-pad1_ port
i5 net-_i5-pad1_ net-_i1-pad2_ 500ua
i6 net-_c1-pad1_ net-_i6-pad2_ 240ua
c3 net-_c3-pad1_ net-_c3-pad2_ 110p
i4 net-_c1-pad1_ net-_c3-pad2_ 750ua
r14 net-_q27-pad3_ net-_q27-pad2_ 20
q27 net-_i6-pad2_ net-_q27-pad2_ net-_q27-pad3_ Q2N2222
q30 net-_c1-pad1_ net-_i6-pad2_ net-_q27-pad2_ Q2N2222
q19 net-_c1-pad1_ net-_q17-pad1_ net-_q18-pad2_ Q2N2222
q17 net-_q17-pad1_ net-_q14-pad3_ net-_q17-pad3_ Q2N2907A
q21 net-_c2-pad2_ net-_q16-pad1_ net-_q21-pad3_ Q2N2907A
r9 net-_q21-pad3_ net-_i3-pad2_ 1.2k
r12 net-_q10-pad1_ net-_c3-pad1_ 750
q22 net-_c1-pad1_ net-_c1-pad2_ net-_q16-pad1_ Q2N2222
c2 net-_c2-pad1_ net-_c2-pad2_ 80p
r11 net-_c2-pad1_ net-_q10-pad1_ 200
c4 net-_c2-pad2_ net-_c3-pad2_ 20p
i3 net-_c1-pad1_ net-_i3-pad2_ 450ua
q20 net-_c2-pad2_ net-_q18-pad2_ net-_q20-pad3_ Q2N2222
r13 net-_i1-pad2_ net-_q24-pad3_ 50
r10 net-_i1-pad2_ net-_q23-pad3_ 6k
q24 net-_c3-pad2_ net-_q23-pad3_ net-_q24-pad3_ Q2N2222
r7 net-_i1-pad2_ net-_q18-pad2_ 6k
r8 net-_i1-pad2_ net-_q20-pad3_ 200
q23 net-_c1-pad1_ net-_c2-pad2_ net-_q23-pad3_ Q2N2222
q28 net-_i5-pad1_ net-_q28-pad2_ net-_q27-pad3_ Q2N2907A
r15 net-_q28-pad2_ net-_q27-pad3_ 20
q26 net-_i1-pad2_ net-_c3-pad2_ net-_i6-pad2_ Q2N2907A
q25 net-_c1-pad1_ net-_c3-pad2_ net-_i5-pad1_ Q2N2222
q15 net-_q14-pad3_ net-_q15-pad2_ net-_i2-pad1_ Q2N2222
q16 net-_q16-pad1_ net-_q15-pad2_ net-_i2-pad1_ Q2N2222
q18 net-_q17-pad1_ net-_q18-pad2_ net-_q18-pad3_ Q2N2222
i2 net-_i2-pad1_ net-_i1-pad2_ 120ua
r5 net-_i1-pad2_ net-_q18-pad3_ 200
q8 net-_q6-pad2_ net-_q1-pad2_ net-_q5-pad2_ Q2N2907A
i1 net-_i1-pad1_ net-_i1-pad2_ 240ua
q14 net-_c1-pad1_ net-_q10-pad1_ net-_q14-pad3_ Q2N2222
r6 net-_q17-pad3_ net-_i3-pad2_ 1.2k
q3 net-_d1-pad1_ net-_q1-pad2_ net-_q3-pad3_ Q2N2907A
q10 net-_q10-pad1_ net-_d1-pad1_ net-_i1-pad1_ Q2N2222
r4 net-_c1-pad2_ net-_r3-pad1_ 17k
c1 net-_c1-pad1_ net-_c1-pad2_ 130p
r1 net-_r1-pad1_ net-_c1-pad1_ 3.4k
r2 net-_q10-pad1_ net-_r1-pad1_ 17k
r3 net-_r3-pad1_ net-_c1-pad1_ 3.4k
q5 net-_i1-pad2_ net-_q5-pad2_ net-_q2-pad2_ Q2N2907A
q7 net-_q5-pad2_ net-_q2-pad2_ net-_c1-pad1_ Q2N2907A
q2 net-_q1-pad3_ net-_q2-pad2_ net-_c1-pad1_ Q2N2907A
q4 net-_q3-pad3_ net-_q2-pad2_ net-_c1-pad1_ Q2N2907A
q12 net-_c1-pad2_ net-_d1-pad2_ net-_i1-pad1_ Q2N2222
q11 net-_q10-pad1_ net-_d1-pad1_ net-_i1-pad1_ Q2N2222
q13 net-_c1-pad2_ net-_d1-pad2_ net-_i1-pad1_ Q2N2222
q6 net-_i1-pad2_ net-_q6-pad2_ net-_q1-pad2_ Q2N2907A
q1 net-_d1-pad2_ net-_q1-pad2_ net-_q1-pad3_ Q2N2907A
d2 net-_d1-pad2_ net-_d1-pad1_ 1N4148
q9 net-_q6-pad2_ net-_i1-pad1_ net-_q15-pad2_ Q2N2222
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
