.title kicad schematic

.include LT1002.sub
vv1 vin gnd sin(2.5 1.0 1k)
v2 net-_x1-pad7_ gnd  dc 5
v3 net-_x1-pad5_ gnd  dc 5
x1 unconnected-_x1-pad1_ unconnected-_x1-pad2_ vout vin net-_x1-pad5_ vout net-_x1-pad7_ unconnected-_x1-pad8_ unconnected-_x1-pad9_ net-_x1-pad10_ net-_x1-pad11_ net-_x1-pad12_ net-_x1-pad13_ net-_x1-pad14_ LT1002
.tran 1e-06 5e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
